US07612079B2
(2-Fluoro-9H-purin-6-yl)-pyridin-2-ylmethyl-amine
To a stirred solution of 6-chloro-2-fluoro-9H-purine (prepared according to Gray, N. S.; Kwon, S.; Schultz, P. G. Tetrahedron Lett 1997, 38, 1161-1164; 0.4 g, 2.31 mmol) in BunOH (25 mL) under Ar, cooled to 0° C., was added Pri2NEt (1.13 mL, 6.49 mmol) followed by 2-(aminomethyl)pyridine (0.48 mL, 4.66 mmol). The reaction mixture was stirred at 0° C. for 3 h, and then allowed to return to RT over 30 min. and stirred at this temperature for 1 h, when TLC (9:1 CHCl3/MeOH) indicated that the reaction had gone to completion. The solvent was evaporated in vacuo and the residue partitioned between citric acid solution (200 mL, 10% aq) and EtOAc (200 mL), the aqueous phase was separated and extracted with more EtOAc (2×100 mL). The pH of the aqueous phase was adjusted to 7.0 with NaOH solution (50% w/v, aq), extracted with EtOAc (4×100 mL), and the bulked organic phase was washed with brine (50 mL), dried (MgSO4) and evaporated in vacuo. The residue was purified by gradient column chromatography on silica gel, eluted with CHCl3/MeOH (95:5→85:15), to afford the title compound as a light yellow solid (0.40 g, 71%). Mp 217-220° C. 1H-NMR (d6-DMSO, 250 MHz): δ 4.58 (d, 2H, J=5.68 Hz, —HNCH2-Pyr), 7.29, 7.71, 8.49 (3×m, 4H, Pyr), 8.10 (s, 1H, —N═CH—NH—), 8.69 (bs, 1H, —HNCH2-Pyr), 13.07 (bs, 1H, —N═CH—NH—). FAB-MS m/z (relative intensity): 245 ([M+H]+, 55), 176 (30), 154 (100), 136 (85). Accurate Mass (M+H): Actual: 245.0951, Measured: 245.0942. Microanalysis (Expected:Measured) C11H9N6F.0.4H2O: C, 52.55:52.91; H, 3.93:3.49; N, 33.42:33.26.

reactant | 6-chloro-2-fluoro-9H-purine | 2.31 mmol, 0.4 g | ClC1=C2N=CNC2=NC(=N1)F | C5H2ClFN4
reactant | 2-(aminomethyl)pyridine | 4.66 mmol, 0.48 mL | NCC1=NC=CC=C1 | C6H8N2
solvent | CHCl3 MeOH | C(Cl)(Cl)Cl.CO
product | (2-Fluoro-9H-purin-6-yl)-pyridin-2-ylmethyl-amine | 0.40 g, 71% | FC1=NC(=C2N=CNC2=N1)NCC1=NC=CC=C1 | C11H9FN6
